datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)(Cl)C(=O)[O-:10].O=[N+]([O-])c1ccc([NH+:21](CO)[H:20])cc1>>CC(C)(Cl)C(=O)[O:10][H:20].O=[N+]([O-])c1ccc([NH:21]CO)cc1 10=20;20,21=21",
"CNCC[NH:10]CCN.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CNCC[NH+:10](CCN)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCC[S-:10].O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CCC[S:10][H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].c1ccc2c(c1)CNCCC[NH:10]Cc1ccccc1OCCO2>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.c1ccc2c(c1)CNCCC[NH+:10]([H:20])Cc1ccccc1OCCO2 10=20;20,21=21",
"Cc1cc([O-:10])ccc1C(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc([O:10][H:20])ccc1C(C)C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CNc1c[n:10]ccc1N.COC(=O)c1cccc([NH2+:21][H:20])c1>>CNc1c[n+:10]([H:20])ccc1N.COC(=O)c1cccc([NH2:21])c1 10=20;20,21=21",
"S=C[N-:10]c1ccc(Cl)cc1.c1cc([OH+:21][H:20])c2cn[nH]c2c1>>S=C[N:10](c1ccc(Cl)cc1)[H:20].c1cc([OH:21])c2cn[nH]c2c1 10=20;20,21=21",
"CN1C(=O)Nc2c(n(C)c[n+:21]2[H:20])C1=O.Cc1ccc(C(=O)/C=C/C(=O)[O-:10])cc1>>CN1C(=O)Nc2c(n(C)c[n:21]2)C1=O.Cc1ccc(C(=O)/C=C/C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"C[NH+](C)CC(P(=O)([O-])O)P(=O)([O-])[O:21][H:20].Cc1n[n:10]c2c(c1C)CCCC2>>C[NH+](C)CC(P(=O)([O-])O)P(=O)([O-])[O-:21].Cc1n[n+:10]([H:20])c2c(c1C)CCCC2 10=20;20,21=21",
"CCCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC=C2)[H:20])C=C1>>CCCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(C[NH2:10])C(=O)[O-].CC[NH+](CC)CCC(C)Nc1c2cc(OC)ccc2[n+:21]([H:20])c2cc(Cl)ccc12>>CC(C[NH2+:10][H:20])C(=O)[O-].CC[NH+](CC)CCC(C)Nc1c2cc(OC)ccc2[n:21]c2cc(Cl)ccc12 10=20;20,21=21",
"Cc1c[n+](C)c([O-])[n:10]c1N.Nc1cc(Cl)cc(C[NH2+:21][H:20])c1>>Cc1c[n+](C)c([O-])[n+:10]([H:20])c1N.Nc1cc(Cl)cc(C[NH2:21])c1 10=20;20,21=21",
"Cn1nc(/N=N/[O-:10])nc1N1CCCCC1.O=[Se](c1cccc(-c2ccccc2)c1)[O:21][H:20]>>Cn1nc(/N=N/[O:10][H:20])nc1N1CCCCC1.O=[Se](c1cccc(-c2ccccc2)c1)[O-:21] 10=20;20,21=21",
"O=C([O-])/C=C/c1c[nH]c[n:10]1.O=C([O-])CC(c1[nH]cc[nH+]1)c1[nH]cc[n+:21]1[H:20]>>O=C([O-])/C=C/c1c[nH]c[n+:10]1[H:20].O=C([O-])CC(c1[nH]cc[nH+]1)c1[nH]cc[n:21]1 10=20;20,21=21",
"C[NH:10]CCCC(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](CCCC(=O)[O-])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(O)C1(C(=O)[O:21][H:20])CCCC1.O=[PH]([O-])C(NCc1ccccn1)c1ccccc1[O-:10]>>O=C(O)C1(C(=O)[O-:21])CCCC1.O=[PH]([O-])C(NCc1ccccn1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"O=[N+]([O-])c1ccc(S(=O)[O:21][H:20])cc1.[NH3+]CCCCCCNC(=S)[S-:10]>>O=[N+]([O-])c1ccc(S(=O)[O-:21])cc1.[NH3+]CCCCCCNC(=S)[S:10][H:20] 10=20;20,21=21",
"CN(C(=O)c1ccccc1)c1cc[n+:21]([H:20])cc1.O=C1c2ccccc2C(=O)[N-:10]1>>CN(C(=O)c1ccccc1)c1cc[n:21]cc1.O=C1c2ccccc2C(=O)[N:10]1[H:20] 10=20;20,21=21",
"C1CCC(C2CCC[NH:10]2)CC1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C1CCC(C2CCC[NH+:10]2[H:20])CC1.N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"COc1ccc(CC(C)[NH:10]C)cc1OC.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>COc1ccc(CC(C)[NH+:10](C)[H:20])cc1OC.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCC[NH:10]CCN.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCC[NH+:10](CCN)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Nc1ccc[nH+]c1C(=O)[O:21][H:20].c1ccc(-c2c[nH]c[n:10]2)cc1>>Nc1ccc[nH+]c1C(=O)[O-:21].c1ccc(-c2c[nH]c[n+:10]2[H:20])cc1 10=20;20,21=21",
"Clc1cccc([O-:10])c1Cl.O=[N+]([O-])c1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1>>Clc1cccc([O:10][H:20])c1Cl.O=[N+]([O-])c1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"CCN(CC)CC[N+:21](CC)(CC)[H:20].Cc1cc(I)ccc1C(=O)[O-:10]>>CCN(CC)CC[N:21](CC)CC.Cc1cc(I)ccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"CCCCCCCCCCCC[N:10](CCO)CC(C)O.Cc1c(Br)cc([NH2+:21][H:20])cc1Br>>CCCCCCCCCCCC[N+:10](CCO)(CC(C)O)[H:20].Cc1c(Br)cc([NH2:21])cc1Br 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Oc1cccc(C[NH2:10])c1O>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Oc1cccc(C[NH2+:10][H:20])c1O 10=20;20,21=21",
"CO[N-:10]C(=O)c1ccccc1.NC1=[NH+][C@H](C(=O)[O-])[C@@H]([C@H](O)C[NH2+:21][H:20])N1>>CO[N:10](C(=O)c1ccccc1)[H:20].NC1=[NH+][C@H](C(=O)[O-])[C@@H]([C@H](O)C[NH2:21])N1 10=20;20,21=21",
"COc1ccc(O)c(C[N+:21](C)(C)[H:20])c1.OC1(c2cc3ccccc3o2)C[N:10]2CCC1CC2>>COc1ccc(O)c(C[N:21](C)C)c1.OC1(c2cc3ccccc3o2)C[N+:10]2([H:20])CCC1CC2 10=20;20,21=21",
"C[NH+](C)Cc1ccc([O-:10])cc1.O=[N+]([O-])c1cccc2c1c(NCCCO)c1ccccc1[n+:21]2[H:20]>>C[NH+](C)Cc1ccc([O:10][H:20])cc1.O=[N+]([O-])c1cccc2c1c(NCCCO)c1ccccc1[n:21]2 10=20;20,21=21",
"CC(O)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])=C1>>CC(O)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)=C1 10=20;20,21=21",
"CC[NH+](CC)CC[NH2+:21][H:20].[S-]c1cccc2ccc[n:10]c12>>CC[NH+](CC)CC[NH2:21].[S-]c1cccc2ccc[n+:10]([H:20])c12 10=20;20,21=21",
